US04555261
2-[[(4-methoxy-6-methyl-1,3,5-triazin-2-yl)aminocarbonyl]aminosulfonyl]-N-(1,2,4-triazol-3-yl)benzamide
To a slurry of 4.0 g of N-[(4-methoxy-6-methyl-1,3,5-triazin-2-yl)aminocarbonyl]-2-methoxycarbonylbenzenesulfonamide in 100 ml of methylene chloride was added by syringe 10 ml of a 2M solution of trimethylaluminum in toluene (1.44 g of Al(CH3)3). Evolution of methane gas was seen. 3-Amino-1,2,4-triazole (1.7 g) was then added and the mixture was heated at reflux for 18 hours. The reaction mixture was then treated with aqueous hydrochloric acid and the precipitated product was purified by trituration in methylene chloride, 0.63 g, m.p. 176°-179° C. NMR in TFA 2.9 ppm s, CH3 on triazine, 4.4 ppm s, OCH3 on triazine, 7.8-8.0 ppm and 8.2-8.5 ppm M, aromatic.

reactant | N-[(4-methoxy-6-methyl-1,3,5-triazin-2-yl)aminocarbonyl]-2-methoxycarbonylbenzenesulfonamide | 4.0 g | COC1=NC(=NC(=N1)C)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)C(=O)OC | C14H15N5O6S
reactant | trimethylaluminum | C[Al](C)C
reactant | methane | C | CH4
reactant | 3-Amino-1,2,4-triazole | 1.7 g | NC1=NNC=N1 | C2H4N4
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | toluene | 1.44 g | C1(=CC=CC=C1)C | C7H8
product | 2-[[(4-methoxy-6-methyl-1,3,5-triazin-2-yl)aminocarbonyl]aminosulfonyl]-N-(1,2,4-triazol-3-yl)benzamide | COC1=NC(=NC(=N1)C)NC(=O)NS(=O)(=O)C1=C(C(=O)NC2=NNC=N2)C=CC=C1 | C15H15N9O5S
